// ============================================================================
// SPICE
// ============================================================================
// Independent Sources
VCC 10 0 DC 6
VIN 13 2 0.001 AC 1 SIN(0 1 1MEG)
VMEAS 12 9
VCARRIER 1 0 DISTOF1 0.1 -90.0
VMODULATOR 2 0 DISTOF2 0.01

ISRC 23 21 AC 0.333 45.0 SFFM(0 1 10K 5 1K)
IIN1 1 5 AC 1 DISTOF1 DISTOF2 0.001

// Pulse
VIN 3 0 PULSE(-1 1 2NS 2NS 2NS 50NS 100NS)

// Sinusoidal
VIN 3 0 SIN(0 1 100MEG 1NS 1E10)

// Exponential
VIN 3 0 EXP(-4 -1 2NS 30NS 60NS 40NS)

// Piece-Wise Linear
VCLOCK 7 5 PWL(0 -7 10NS -7 11NS -3 17NS -3 18NS -7 50NS -7)

// Single-Frequency FM
V1 12 0 SFFM(0 1M 20K 5 1K)
