//============================================================================
// MOSFET - M**
// Mxx ND NG NS
//      [NB] [{NN}] [MOD[EL]=]MNAME [[L=]VAL] [[W=]VAL]
//    + [AD=VAL] [AS=VAL] [PD=VAL] [PS=VAL] [GEO=VAL] [NRD=VAL] [NRS=VAL]
//    + [M=VAL] [RDC=VAL] [RSC=VAL] [T[EMP]=VAL] [DTEMP=VAL] [STATISTICAL=0|1]
//    + [NONOISE] [NOISE=1]
//
//      [NB] [{NN}] [MOD[EL]=]MNAME [W=VAL] [L=VAL]
//    + [FMIN=VAL] [FMAX=VAL] [NBF=VAL] [STATISTICAL=0|1]
//============================================================================
M1 1 2 3 4 MOS1 w=10u l=3u
M1 1 2 3 4 MOD=MOS1 w=10u l=3u
M1 1 2 3 4 MODEL=MOS1 w=10u l=3u
M1 1 2 3 4 5 MOS1 w=10u l=3u
M1 1 2 3 4 5 MOD=MOS1 w=10u l=3u
M1 1 2 3 4 5 MODEL=MOS1 w=10u l=3u
M1 1 2 3 4 MOS1 w=10u l=3u
M2 1 2 3 4 MOS1 w=10u l=3u
M3 1 2 3 4 MOS2 w=10u l=3u
M1 1 2 3 4 MOS1 w=10u l=3u M=2
M1 1 2 3 4 MODROOT w=2u l=3u

// ============================================================================
// SPICE
// ============================================================================
// MOSFETs
M1 24 2 0 20 TYPE1
M31 2 17 6 10 MODM L=5U W=2U
M1 2 9 3 0 MOD1 L=10U W=5U AD=100P AS=100P PD=40U PS=40U

m1000 Vdd Gnd a_n57_n260 Vdd pfet w=1.8u l=43.2u ad=271.08p pd=352.2u as=3.24p ps=7.2u
m1001 a_6_0 n13 nRb Vdd pfet w=172.8u l=1.8u ad=194.4p pd=252u as=174.96p ps=226.8u
m1002 n21 n9 a_6_0 Vdd pfet w=43.2u l=1.8u ad=38.88p pd=50.4u as=0p ps=0u
m1003 a_255_n22 a_255_n22 Vdd Vdd pfet w=28.2u l=0.6u ad=50.76p pd=63.6u as=0p ps=0u
m1004 n178 n178 a_255_n22 Vdd pfet w=28.2u l=1.8u ad=25.38p pd=31.8u as=0p ps=0u
m1005 Vdd n9 n9 Vdd pfet w=10.8u l=1.8u ad=0p pd=0u as=19.44p ps=25.2u
m1006 a_60_n107 n13 Vdd Vdd pfet w=43.2u l=1.8u ad=77.76p pd=100.8u as=0p ps=0u
m1007 n13 n9 a_60_n107 Vdd pfet w=43.2u l=1.8u ad=38.88p pd=50.4u as=0p ps=0u
m1008 a_176_n107 n13 Vdd Vdd pfet w=43.2u l=1.8u ad=77.76p pd=100.8u as=0p ps=0u
m1009 n7 n9 a_176_n107 Vdd pfet w=43.2u l=1.8u ad=38.88p pd=50.4u as=0p ps=0u
m1010 n152 n13 Vdd Vdd pfet w=21.6u l=1.8u ad=19.44p pd=25.2u as=0p ps=0u
m1011 a_n57_n260 n7 Gnd Gnd nfet w=14.4u l=1.8u ad=12.96p pd=54u as=121.5p ps=505.2u
m1012 n13 a_n57_n260 Gnd Gnd nfet w=14.4u l=1.8u ad=25.92p pd=108u as=0p ps=0u
m1013 n9 a_n57_n260 Gnd Gnd nfet w=14.4u l=1.8u ad=25.92p pd=108u as=0p ps=0u
m1014 Gnd n21 n178 Gnd nfet w=7.2u l=1.8u ad=0p pd=0u as=12.96p ps=54u
m1015 a_64_n260 n21 Gnd Gnd nfet w=14.4u l=1.8u ad=25.92p pd=108u as=0p ps=0u
m1016 n21 n7 a_64_n260 Gnd nfet w=14.4u l=1.8u ad=12.96p pd=54u as=0p ps=0u
m1017 a_112_n260 n21 Gnd Gnd nfet w=14.4u l=1.8u ad=25.92p pd=108u as=0p ps=0u
m1018 n13 n7 a_112_n260 Gnd nfet w=14.4u l=1.8u ad=0p pd=0u as=0p ps=0u
m1019 a_160_n260 n21 Gnd Gnd nfet w=14.4u l=1.8u ad=25.92p pd=108u as=0p ps=0u
m1020 n9 n7 a_160_n260 Gnd nfet w=14.4u l=1.8u ad=0p pd=0u as=0p ps=0u
m1021 n7 n7 Gnd Gnd nfet w=3.6u l=1.8u ad=6.48p pd=27.6u as=0p ps=0u
m1022 a_247_n230 a_247_n230 Gnd Gnd nfet w=9.3u l=0.6u ad=16.74p pd=70.2u as=0p ps=0u
m1023 n152 n152 a_247_n230 Gnd nfet w=9.3u l=1.8u ad=16.74p pd=70.2u as=0p ps=0u