//============================================================================
// Switch
// ----------------------------------------------------------------------------
// Sxx NC N1 N2 [MNAME] [RON [CREC]]
//============================================================================
s23 c n2 n6 2000 0.02e-12
s7 ck3 5 7 styp

// ============================================================================
// SPICE
// ============================================================================
// Switches
s1 1 2 3 4 switch1 ONs2 5 6 3 0 sm2 off
Switch1 1 2 10 0 smodel1
w1 1 2 vclock switchmod1
W2 3 0 vramp sm1 ON
wreset 5 6 vclck lossyswitch OFF