// Capacitor
simulator lang=spectre

C1 (vcc out) capacitor c=1pf
C2 (out b1 ) capacitor c=272.7pF
C3 (b1 0) capacitor c=3nF
C4 (b2 in ) capacitor c=3nF